US06936602B1
A mixture of methyl 1-benzyl-7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.3 g), 4-(2-propoxyethoxy)phenyl borate (0.24 g), 1M potassium carbonate solution (2.5 ml), ethanol (2.5 ml) and toluene (25 ml) was stirred under argon atmosphere at room temperature for 30 minutes. To the mixture was added tetrakis(triphenylphosphine)palladium (0.04 g), and the mixture was refluxed under argon atmosphere overnight. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified with silica gel column chromatography (ethyl acetate/hexane) to give methyl 1-benzyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.27 g) as yellow oil.

reactant | methyl 1-benzyl-7-bromo-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.3 g | C(C1=CC=CC=C1)N1CCC(=CC2=C1C=CC(=C2)Br)C(=O)OC | C19H18BrNO2
reactant | 4-(2-propoxyethoxy)phenyl borate | 0.24 g | B(OC1=CC=C(C=C1)OCCOCCC)([O-])[O-]
reactant | potassium carbonate | 1M, 2.5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 2.5 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 1-benzyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.27 g | C(C1=CC=CC=C1)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C30H33NO4
